US05362742
A mixture of 4-acetoxy-3,5-diisopropylbenzoic acid (634 mg), thionyl chloride (3 ml) and DMF (1 drop) was refluxed for 40 minutes, concentrated and evaporated to obtain 4-acetoxy-3,5-diisopropylbenzoyl chloride. The resultant was dissolved in dichloromethane (20 ml), to which 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline (566 mg) and triethylamine (0.30 ml) were added. Thus obtained solution was stirred at room temperature for one night. After dilution with water, the solution was extracted with dichloromethane. The dichloromethane layer was washed with 2N-hydrochloric acid and water, and then dried (MgSO4). The solvent was removed and the residue was recrystallized from ethanol to obtain 3-(4-acetoxy-3,5-diisopropylbenzamido)-4-(2-chlorophenyl)-6,8-dimethylquinoline (815 mg, 77.0%) as colorless prisms.

reactant | 4-acetoxy-3,5-diisopropylbenzoic acid | 634 mg | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1C(C)C)C(C)C | C15H20O4
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 4-acetoxy-3,5-diisopropylbenzoyl chloride | C(C)(=O)OC1=C(C=C(C(=O)Cl)C=C1C(C)C)C(C)C | C15H19ClO3
